US20010020089A1
Methyl 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate
A solution of 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile (Preparation 8) (5.0 g, 14.7 mmol) and sodium methoxide (4.0 g, 74.1 mmol) in methanol (300 ml) was heated under reflux for 24 hours. Further sodium methoxide (2.0 g, 37 mmol) and methanol (100 ml) were then added and heating was continued for a further 24 hours. The reaction mixture was allowed to cool and the solvent was removed under reduced pressure. The residue was dissolved in THF (375 ml), 2 M hydrochloric acid (125 ml) was added and the mixture was stirred at room temperature for 24 hours. The THF was removed under reduced pressure and the suspension was adjusted to pH 7 with saturated aqueous sodium bicarbonate solution. Ethyl acetate (100 ml) was then added and the white solid consisting mainly of the desired product was filtered, washed with a little water and ethyl acetate and dried. Purification by column chromatography on silica gel eluting with a gradient system of dichloromethane: methanol (90:10 by volume) gradually changing to dichloromethane methanol (75:25 by volume) afforded the title compound as a white solid (1.25 g). Evaporation of the ethyl acetate filtrate returned 2.6 g of the starting material.

reactant | 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carbonitrile | 14.7 mmol, 5.0 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C#N)C1=CC=CC=C1 | C20H16N6
reactant | sodium methoxide | 74.1 mmol, 4.0 g | C[O-].[Na+]
reactant | sodium methoxide | 37 mmol, 2.0 g | C[O-].[Na+]
reactant | methanol | 300 ml | CO | CH4O
reactant | methanol | 100 ml | CO | CH4O
product | Methyl 6-[(2,2-diphenylethyl)amino]-9H-purine-2-carboxylate | 1.25 g | C1(=CC=CC=C1)C(CNC1=C2N=CNC2=NC(=N1)C(=O)OC)C1=CC=CC=C1 | C21H19N5O2
